* Ngspice тест: cabin_sensor / SEN_CABIN_NTC_MID
* Термистор RT1 при комнатной температуре 25°C.
* R_NTC = 10 кОм.
* NTC_CABIN = 3.3 · 10/(10 + 10) = 1.65В.
.INCLUDE /home/vitaly-pc/kicad/climate_control_niva_travel/spice/lib/ntc_models.lib
.model D_1N4148 D(IS=2.52e-9 N=1.752 RS=0.568 CJO=4p BV=100)
.model AO3400A NMOS(LEVEL=3 VTO=1.4 KP=20 RS=0.02 RD=0.02 LAMBDA=0.02)
.INCLUDE spice/cabin_sensor.sub

* Порты: GND M_FAN_CTL M_FAN_GATE NTC_CABIN SENS_FAN_SW VCC_12V

* V1: Опорное питание АЦП
V1 VCC_3V3_EXT 0 DC 3.3

* R_PU: R24 (10к) — верхнее плечо делителя
R_PU VCC_3V3_EXT NTC_CABIN 10k
Xcabin_sensor 0 M_FAN_CTL M_FAN_GATE NTC_CABIN SENS_FAN_SW VCC_12V cabin_sensor RT1_T=25

.op
.control
run
print v(ntc_cabin)
.endc
.end
